US07935699B2
To a solution of 2-benzyloxymethyl-propane-1,3-diol (4.39 g, 22.36 mmol) in tetrahydrofuran (60 ml) stirred at −5° C., was added n-butyllithium in hexane (2.5 M, 11.18 ml, 27.96 mmol) and after 20 min, a solution of p-toluenesulfonyl chloride (5.12 g, 26.85 mmol) in tetrahydrofuran (20 ml) was added. The reaction was allowed to warm to 25° C. and then stirred for 2 h. To this solution was added water slowly and then extracted with ethyl acetate. The organics were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was then dissolved in tert-butyl alcohol (90 ml) and potassium tert-butoxide (7.5 g, 66.83 mmol) was added, and the reaction was refluxed for 30 min and then stirred at 25° C. for 30 min. After such a time it was diluted with water (500 ml) and extracted with ether (2×250 ml). The extracts were combined and dried over magnesium sulfate, filtered and concentrated in vacuo. Purification on an AnaLogix Intelliflash system (120 g column, 20% ethyl acetate/hexanes to 30% ethyl acetate/hexanes) afforded 3-benzyloxymethyl-oxetane (2.02 g, 51%) as a light yellow oil: 1H NMR (300 MHz, CDCl3) δ ppm 3.19-3.32 (m, 1H, CH), 3.71 (d, J=6.9 Hz, 2H, OCH2), 4.42-4.48 (m, 2 H, 2×OCH of 2×OCH2), 4.55 (s, 2H, OCH2Ar), 4.77-4.83 (m, 2H, 2×OCH of 2×OCH2), 7.27-7.40 (m 5H, Ar).

reactant | 2-benzyloxymethyl-propane-1,3-diol | 22.36 mmol, 4.39 g | C(C1=CC=CC=C1)OCC(CO)CO | C11H16O3
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 27.96 mmol, 2.5 M, 11.18 ml | CCCCCC | C6H14
reactant | p-toluenesulfonyl chloride | 26.85 mmol, 5.12 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | potassium tert-butoxide | 66.83 mmol, 7.5 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 3-benzyloxymethyl-oxetane | 2.02 g, 51% | C(C1=CC=CC=C1)OCC1COC1 | C11H14O2
